US03984465
To a refluxing solution of 2-cyclopentyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (15.5 g., 0.05 mole) in acetone (500 ml.) in an inert atmosphere is added solid sodium hydroxide (12.6 g., 0.25 mole). Chloroform (7.6 g., 0.69 mole) in acetone (50 ml.) is added dropwise during a ten-minute period. The reaction mixture is refluxed for five hours, then evaporated to dryness at reduced pressure. The residue is dissolved in water, filtered and acidified with hydrochloric acid affording α,α-dimethyl-(1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid.

reactant | 2-cyclopentyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.05 mole, 15.5 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C15H16Cl2O2
reactant | sodium hydroxide | 0.25 mole, 12.6 g | [OH-].[Na+]
reactant | Chloroform | 0.69 mole, 7.6 g | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | α,α-dimethyl-(1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | CC(C(=O)O)(C)OC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(C)C1CCCC1 | C19H22Cl2O4
